US06080754
5-Amino-2-n-propylpyridine
A suspension of 5-nitro-2-n-propylpyridine (8.31 g, 50 mmol) and 400 mg 5% palladium on charcoal in 200 ml of ethanol was stirred in a hydrogen atmosphere until no more hydrogen was absorbed. The reaction mixture was filtered twice and the solvent was evaporated. The resulting oil was purified by kugelrohr destillation at 150° C. and high vacuum pressure. This gave 6.72 g (98%) of 5-amino-2-n-propylpyridine as a colourless oil. MS(GC): m/z 136 (M+). 1H-NMR (CDCl3, 200 MHz) δ: 0.83 (t, 3H); 1.60 (sext, 2H); 2.54 (t, 2H); 3.67 (br s, 2H); 6.81 (d, 2H); 7.91 (d, 1H).

reactant | 5-nitro-2-n-propylpyridine | 50 mmol, 8.31 g | [N+](=O)([O-])C=1C=CC(=NC1)CCC | C8H10N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Amino-2-n-propylpyridine | NC=1C=CC(=NC1)CCC | C8H12N2
